US07091214B2
3-Chloroperoxybenzoic acid (0.126 g of 70% pure material, 0.73 mmol) was added in one portion to a stirred solution of dimethyl 4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide (0.30 g, 0.63 mmol) in chloroform (7 mL), and the solution was stirred for two hours at ambient temperature. Ammonium hydroxide (2 mL) and p-toluenesulfonyl chloride (0.15 g, 0.76 mmol) were sequentially added, and the mixture was stirred at ambient temperature for one hour. Dichloromethane (100 mL) was added, and the mixture was washed sequentially with 2 M aqueous sodium hydroxide (2×30 mL), saturated aqueous sodium bicarbonate (2×30 mL), and brine (30 mL); dried over magnesium sulfate; filtered; and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with ethyl acetate:ethanol in a gradient from 100:0 to 80:20) followed by recrystallization from dichloromethane:heptane. The crystals were dried for two hours under vacuum at 40° C. to provide 0.185 g of dimethyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide as a white solid, mp 193° C.

reactant | 3-Chloroperoxybenzoic acid | 0.73 mmol, 0.126 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | dimethyl 4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide | 0.63 mmol, 0.30 g | CC(CCCN1C(=NC=2C=NC=3C=C(C=CC3C21)Br)COCC)(S(=O)(=O)N)C | C19H25BrN4O3S
reactant | Ammonium hydroxide | 2 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 0.76 mmol, 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | dimethyl 4-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-sulfonamide | 0.185 g | CC(CCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)COCC)(S(=O)(=O)N)C | C19H26BrN5O3S
